US03987160
To a solution of 4-amino-2-butylpyrimid-6-one (7.65 g.) and sodium hydroxide (3.7 g.) in water (115 ml.) was added, at below 5° C, benzene diazonium chloride solution prepared (by the method well known in the art) from aniline (4.64 ml.), and the mixture was then heated to reflux for 1 hour. The pH was adjusted to 6 by the addition of aqueous sodium hydroxide solution, the product was filtered off, washed with water, dried and recrystallised from ethanol to give 4-amino-2-n-butyl-5-phenylazopyrimid-6-one (2.52 g.), m.p. 266°-270° C, pure enough for use in the next stage of the preparation.

reactant | 4-amino-2-butylpyrimid-6-one | 7.65 g | NC=1N=C(NC(C1)=O)CCCC | C8H13N3O
reactant | sodium hydroxide | 3.7 g | [OH-].[Na+]
reactant | benzene diazonium chloride | [Cl-].C1(=CC=CC=C1)[N+]#N
reactant | aniline | 4.64 ml | NC1=CC=CC=C1 | C6H7N
solvent | water | 115 ml | O | H2O
product | 4-amino-2-n-butyl-5-phenylazopyrimid-6-one | 2.52 g | NC=1N=C(NC(C1N=NC1=CC=CC=C1)=O)CCCC | C14H17N5O
